US06268387B1
3-Phenylmethanesulfonylamino-4-methoxy-N-phenyl-benzamide
Prepared according to the procedure described for Example 121 using benzylsulfonyl chloride (1.90 g, 10 mmol), 3-amino-4-methoxy-N-phenyl-benzamide (2.43 g, 10 mmol), and pyridine (25 mL) to afford the product (2.5 g); m.p. 216-216° C. after trituration in hexanes/ethyl acetate (1:1).

reactant | benzylsulfonyl chloride | 10 mmol, 1.90 g | C(C1=CC=CC=C1)S(=O)(=O)Cl | C7H7ClO2S
reactant | 3-amino-4-methoxy-N-phenyl-benzamide | 10 mmol, 2.43 g | NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1OC | C14H14N2O2
solvent | pyridine | 25 mL | N1=CC=CC=C1 | C5H5N
product | 3-Phenylmethanesulfonylamino-4-methoxy-N-phenyl-benzamide | 2.5 g | C1(=CC=CC=C1)CS(=O)(=O)NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1OC | C21H20N2O4S
